US07396847B2
5-Azidomethyl-3-(5-bromo-thien-2-yl)-4,5-dihydro-isoxazole
Methanesulfonic acid 3-(5-bromo-thien-2-yl)-4,5-dihydro-isoxazol-5-ylmethyl ester (9 g, 26.4 mmol) was added to dimethyl formamide (25 ml) followed by addition of sodium azide (3.4 g, 52.8 mmol). The mixture was heated to 75° C. for five hours and then added to aqueous sodium chloride (100 ml) followed by extraction with ethyl acetate (3×200 ml). The organic layers were combined, dried over sodium sulfate, and concentrated in vacuo to yield the desired product (7.4 g).

reactant | Methanesulfonic acid 3-(5-bromo-thien-2-yl)-4,5-dihydro-isoxazol-5-ylmethyl ester | 26.4 mmol, 9 g | BrC1=CC=C(S1)C1=NOC(C1)COS(=O)(=O)C | C9H10BrNO4S2
reactant | sodium azide | 52.8 mmol, 3.4 g | [N-]=[N+]=[N-].[Na+]
reactant | sodium chloride | 100 ml | [Cl-].[Na+]
solvent | dimethyl formamide | 25 ml | CN(C=O)C | C3H7NO
product | 5-Azidomethyl-3-(5-bromo-thien-2-yl)-4,5-dihydro-isoxazole | 7.4 g | N(=[N+]=[N-])CC1CC(=NO1)C=1SC(=CC1)Br | C8H7BrN4OS
